US08895571B2
Step C: ethyl 6-bromo-2-methylnicotinate
Ethyl 2-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate (2.0 g, 11 mmol) and POBr3 (8.9 g, 31 mmol) were mixed in one 100 mL flask, and the mixture was stirred at 130° C. for 4 hrs. The reaction mixture was cooled to room temperature and 50 g of ice water was added. The mixture was neutralized to pH=9 with aqueous NaHCO3 solution, extracted twice with EtOAc, dried over sodium sulfate, filtered and concentrated under reduced pressure to give 2.5 g (93% yield) of the desired product. LC-MS found: 244.1 (M+H)+.

reactant | Ethyl 2-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 11 mmol, 2.0 g | CC=1NC(C=CC1C(=O)OCC)=O | C9H11NO3
reactant | POBr3 | 31 mmol, 8.9 g | P(=O)(Br)(Br)Br | Br3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | ethyl 6-bromo-2-methylnicotinate | 2.5 g, 93% yield | BrC1=NC(=C(C(=O)OCC)C=C1)C | C9H10BrNO2
